Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
confusion concerning for seizure 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ F w complicated neurological history
including suspected ___'s meningoencephalitis c/b seizures
who presents to ___ with confusion c/f seizure.

Ms. ___ herself is unable to provide much history. She states
that she is at the hospital because, "my daughter thought I was
having a seizure... but I was just tired." When asked about
specific events that occurred earlier in the day, she appears to
get confused saying "when we went to see my daughter at the
hospital... no, that's not right." She then closes her eyes and
says, "I'm not sure." Remainder of history obtained from Ms.
___ daughter ___ ___.

Ms. ___ daughter states that yesterday, she and her mother
went to see Dr. ___. At the time, Ms. ___ was complaining
of left face tingling, but was otherwise cognitively at her
baseline. An MRI was ordered (full report below) which showed
resolution of some FLAIR lesions with expansion of others.
Today at around 11AM, Ms. ___ daughter noted that her 
mother
was "quieter than normal." This actually occurred while Ms.
___ was driving, and her daughter had her pull over. Her
daughter asked her several questions, to which Ms. ___ was
only able to reply, ___.. stop... talking." She appeared to
have a blank stare on her face. Ms. ___ was concerned that
this was similar to Ms. ___ original presentation with
encephalitis back in ___ so she called EMS.

Ms. ___ was taken to ___ for evaluation. Her
daughter states that when she went to go see her mother at 
___
around 1PM, her mother was unable to name all of her siblings or
children. Due to concern for seizure, she was given 2mg of
Ativan. A phenytoin level was check, found to be low at 6.6.
Decision was made to transfer Ms. ___ to ___ as she has 
been
receiving the bulk of her neurological care here.

Per her daughter, Ms. ___ was well yesterday (oriented x3,
able to carry on a conversation), but her behavior over the past
several months has been "off." She characterizes her mother's
difficulties as being "slower" and "meaner." 

Of note, Ms. ___ is in charge of her own medication
administration and it seems likely that she may have missed
several doses.

Her daughter denies that Ms. ___ has had any recent 
illnesses,
just "a dry cough from the cold." She believes that her sleep 
has
been good, and states that "she sleeps a lot." She does not use
assistive devices to ambulate, but has complained of RLE
"heaviness" intermittently. Ms. ___ herself now complains of 
a
mild left sided headache. She denies that she is having any left
facial numbness.

Brief recap of neurological history:
Ms. ___ was admitted to ___ ___ to ___ for 
confusion,
with extensive work-up (including brain bx) most consistent with
Hashimoto's meningoencephalitis vs. ADEM. EEG at that time was
notable for NCSE. She was started on Keppra and phenytoin with
resolution of events.
She was readmitted to ___ ___ for HA, neck pain,
vertigo, and N/V. EEG was unremarkable. She was treated for
migraines and neck muscle strain.
Ms. ___ was admitted a third time from ___
evaluation after repeat MRI showed progression of previously
identified FLAIR hyperintense lesions. EEG and laboratory 
work-up
was unremarkable. She was treated with a 3-day course of 1000mg
IV methylprednisone with very slight clinical improvement with
perhaps a more noticeable improvement on her MRI.
She has continued to follow up with Drs. ___ as 
well
as Dr. ___ in neuro-oncology due to concern for lymphoma,
though is felt to be less likely.

 
Past Medical History:
- (?)___'s meningoencephalitis vs. ADEM
  - MRI: multifocal enhancing lesions
    - ___'s vs. ADEM vs. low grade glioma vs. lymphoma
  - c/b seizures and frontal lobe dysfunction

-Hypertension
-depression/anxiety
-hypothyroidism 
 
Social History:
___
Family History:
+hypothyroidism

 
Physical Exam:
Admit exam:
VS Tm:103 Tc:99.4 HR:100->85 BP:152/65 RR:17 SaO2:98RA
GEN - elderly F, quiet, cooperative
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake, attends to examiner but needs verbal stimulation to
remain engaged. Oriented x3. MOYB are slow and incomplete. When
reading phrases off stroke card, reads "Hear this on the dining
room" and "They hear the repeat on the radio". She is able to
name and repeat. She makes several paraphasic errors, for
example, when describing the stroke card scene, she states "the
tear is chippin" (the chair is tipping). She also states that
there are 6 people in the scene. Unable to calculate quarters in
$1.75 (says "4, 5"). No clear R/L or digit confusion. No 
evidence
of apraxia or neglect. Does perseverate on previous task.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] V1-V3 without deficits to light 
touch
bilaterally. [VII] No facial movement asymmetry with forced
eyelid closure or volitional smile. [VIII] Hearing intact to
voice. [IX, X] Palate elevation symmetric. No dysarthria. [XI]
SCM/Trapezius strength ___ bilaterally. [XII] Tongue midline 
with
full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No tremor
or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1] 
L  4+*    5     5     5     5    4+   5      5     5    5 
R  5      5     5     5     5    4+   5      5     5    5 
*Pain limited

SENSORY - No deficits to light touch or pin-prick throughout. No
extinction to double simultaneous tactile stimulation.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        1
R 2      2      2      2        1
Plantar response flexor bilaterally.

COORD - No dysmetria with finger to nose testing.

GAIT - Deferred.

Discharge exam: 
mental status: some difficulty with date (thought it was ___, 
months of the year backwards intact. ___ recall
cranial nerves: EOM intact. Face symmetric. 
Motor: no drift. No orbiting. 

 
Pertinent Results:
___ 11:35PM   PHENYTOIN-8.0*
___ 06:21PM CEREBROSPINAL FLUID (CSF)  PROTEIN-48* 
GLUCOSE-66
___ 06:21PM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-0 POLYS-2 
___ MONOS-4 ATYPS-1
___ 05:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 05:08PM   LACTATE-1.6
___ 05:00PM   GLUCOSE-104* UREA N-5* CREAT-0.5 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-22 ANION GAP-18
___ 05:00PM   ALT(SGPT)-16 AST(SGOT)-20 ALK PHOS-113* TOT 
BILI-0.3
___ 05:00PM   LIPASE-25
___ 05:00PM   ALBUMIN-3.9
___ 05:00PM   TSH-0.31
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00PM   ___-10.3* RBC-4.14 HGB-12.7 HCT-39.7 MCV-96 
MCH-30.7 MCHC-32.0 RDW-12.6 RDWSD-44.9
___ 05:00PM   NEUTS-74.9* ___ MONOS-5.1 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-7.74*# AbsLymp-2.00 AbsMono-0.53 
AbsEos-0.01* AbsBaso-0.03
___ 05:00PM   PLT COUNT-288
___ 05:00PM   ___ PTT-22.7* ___
___ 04:36PM URINE  HOURS-RANDOM
___ 04:36PM URINE  UHOLD-HOLD
___ 04:36PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:36PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 04:36PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 04:36PM URINE  MUCOUS-RARE
___ 01:25PM   CREAT-0.6
___ 01:25PM   estGFR-Using this
___ 12:15PM   UREA N-7 CREAT-0.6 SODIUM-139 POTASSIUM-4.3 
CHLORIDE-101 TOTAL CO2-26 ANION GAP-16
___ 12:15PM   estGFR-Using this
___ 12:15PM   ALT(SGPT)-19 AST(SGOT)-18 ALK PHOS-118* TOT 
BILI-0.2 DIR BILI-<0.2 INDIR BIL-0.2
___ 12:15PM   TOT PROT-6.8 ALBUMIN-4.4 GLOBULIN-2.4
___:15PM   PHENYTOIN-8.9*
___ 12:15PM   WBC-7.9 RBC-4.55 HGB-13.8 HCT-42.6 MCV-94 
MCH-30.3 MCHC-32.4 RDW-12.7 RDWSD-43.8
___ 12:15PM   NEUTS-46.4 ___ MONOS-7.2 EOS-1.4 
BASOS-0.3 IM ___ AbsNeut-3.65 AbsLymp-3.51 AbsMono-0.57 
AbsEos-0.11 AbsBaso-0.02
___ 12:15PM   PLT COUNT-315
 
Brief Hospital Course:
Ms. ___ is a ___ F w complicated neurological history 
of ___'s meningoencephalitis vs. ADEM c/b seizures who 
presents to ___ with confusion concerning for seizures she was 
monitored on cvEEG which did not show seizures but frequent 
periodic lateralized epileptiform discharges. Etiology of her 
seizures was thought to be  due to subtherapeutic Dilantin and 
viral infection ( noted to have fever in ED, but infectious w/u 
was negative). She was loaded with Dilantin and her level became 
therapeutic.  In addition, her keppra was increased to 1500mg 
twice a day.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. WelChol (colesevelam) 625 mg oral BID 
4. Gabapentin 300 mg PO TID 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Phenytoin Sodium Extended 100 mg PO QAM 
7. Phenytoin Sodium Extended 200 mg PO QPM 
8. LevETIRAcetam 1000 mg PO BID 
9. ferrous sulfate 325 mg (65 mg iron) oral daily 

 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO BID  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Citalopram 20 mg PO DAILY  
4.  ferrous sulfate 325 mg (65 mg iron) oral daily  
5.  Gabapentin 300 mg PO TID  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Phenytoin Sodium Extended 100 mg PO QAM  
8.  Phenytoin Sodium Extended 200 mg PO QPM  
9.  WelChol (colesevelam) 625 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ with an episode of confusion 
concerning for seizures. ___ were monitored on cvEEG which did 
not show seizures but periodic lateralized epileptiform 
discharges which can be seen in patients with seizures. ___ were 
noted to have a subtherapeutic level of Dilantin and were given 
extra doses. In addition, your keppra was increased to 1500mg 
twice a day. We think your seizure might have been precipitated 
by a viral infection and the low Dilantin level. 
Please take your medications as prescribed. 

___ have follow up scheduled as mentioned below. 

It was a pleasure taking care of ___.

___,
Your ___ care team
 
Followup Instructions:
___